US08748418B2
e) 4-Chloro-1-difluoromethyl-1H-pyrazole-3-carbaldehyde
To a solution of 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methoxy-methyl-amide (164 mg, 0.68 mmole) in THF (5 ml) was added at 0° C. a solution of LiAlH4 (1M in THF, 0.35 ml) and stirring was continued for 30 min. The mixture was quenched at −15° C. with saturated aqueous KHSO4, extracted with diethyl ether, the organic layer was dried, evaporated and the residue purified by chromatography on silica gel using cyclohexane/AcOEt (4:1) to give the title compound (71 mg) as a pale yellow oil.

reactant | 4-chloro-1-difluoromethyl-1H-pyrazole-3-carboxylic acid methoxy-methyl-amide | 0.68 mmole, 164 mg | CON(C(=O)C1=NN(C=C1Cl)C(F)F)C | C7H8ClF2N3O2
reactant | LiAlH4 | 1M, 0.35 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-Chloro-1-difluoromethyl-1H-pyrazole-3-carbaldehyde | 71 mg | ClC=1C(=NN(C1)C(F)F)C=O | C5H3ClF2N2O
